US06833378B2
2-(4-Methoxy-2,6-dimethyl-phenoxy)-6-methyl-4-(1-methylsulfanylmethyl-propylamino)-nicotinic acid methyl ester
A mixture of 2-(4-methoxy-2,6-dimethyl-phenoxy)-4-(1-methanesulfonyloxymethyl-propylamino)-6-methyl-nicotinic acid methyl ester and sodium iodide in acetonitrile was stirred at rt for 2 hr, then NaSMe was added. The mixture was heated at 60° C. overnight. DMSO and additional NaSMe were added and heated for additional hours until all starting material was consumed. The mixture was quenched with water, extracted with ethyl acetate. The organic layer was separated, dried, concentrated, and purified to give the title compound.

reactant | 2-(4-methoxy-2,6-dimethyl-phenoxy)-4-(1-methanesulfonyloxymethyl-propylamino)-6-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(CC)COS(=O)(=O)C)C)OC1=C(C=C(C=C1C)OC)C)=O | C22H30N2O7S
reactant | sodium iodide | [I-].[Na+]
reactant | DMSO | CS(=O)C | C2H6OS
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(4-Methoxy-2,6-dimethyl-phenoxy)-6-methyl-4-(1-methylsulfanylmethyl-propylamino)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(CC)CSC)C)OC1=C(C=C(C=C1C)OC)C)=O | C22H30N2O4S
